US07105533B2
A solution of 3-methoxy-4-pyridin-2-ylbenzaldehyde (150 mg, 0.7 mmol) in THF (3 mL) was cooled to 0° C. and was treated with ethyl magnesium bromide (0.9 mL of a 1M solution in THF, 0.9 mmol). The reaction mixture was kept at 0° C. for 2 h before quenching with water (5 mL). The product was extracted into CH2Cl2 (3×10 mL), dried (MgSO4) and concentrated. The residue was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:4 to 1:1) to afford 1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-ol.

reactant | 3-methoxy-4-pyridin-2-ylbenzaldehyde | 0.7 mmol, 150 mg | COC=1C=C(C=O)C=CC1C1=NC=CC=C1 | C13H11NO2
reactant | ethyl magnesium bromide | C(C)[Mg]Br
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(3-methoxy-4-pyridin-2-ylphenyl)propan-1-ol | COC=1C=C(C=CC1C1=NC=CC=C1)C(CC)O | C15H17NO2
